* Subcircuit SC_SN74LS51
.subckt SC_SN74LS51 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ ? net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ ? 
* c:\fossee2\esim\library\subcircuitlibrary\sc_sn74ls51\sc_sn74ls51.cir
.include 3_and.sub
x1 net-_u1-pad1_ net-_u1-pad12_ net-_u1-pad13_ net-_u4-pad1_ 3_and
x2 net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u4-pad2_ 3_and
* u2  net-_u1-pad2_ net-_u1-pad3_ net-_u2-pad3_ d_and
* u3  net-_u1-pad4_ net-_u1-pad5_ net-_u3-pad3_ d_and
* u4  net-_u4-pad1_ net-_u4-pad2_ net-_u1-pad8_ d_nor
* u5  net-_u2-pad3_ net-_u3-pad3_ net-_u1-pad6_ d_nor
a1 [net-_u1-pad2_ net-_u1-pad3_ ] net-_u2-pad3_ u2
a2 [net-_u1-pad4_ net-_u1-pad5_ ] net-_u3-pad3_ u3
a3 [net-_u4-pad1_ net-_u4-pad2_ ] net-_u1-pad8_ u4
a4 [net-_u2-pad3_ net-_u3-pad3_ ] net-_u1-pad6_ u5
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u2 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u3 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u4 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u5 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Control Statements

.ends SC_SN74LS51